US06313137B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-N-hydroxyethyl-imidazo[1,2-a]pyridine-6-carboxamide
Methyl 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate (0.12 g, 0.33 mmol), ethanolamine (0.2 g, 3.3 mmol) and sodium cyanide (10 mg, 0.2 mmol) were refluxed in dimethoxyethane (2 ml) for 20 h. The solvent was evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using methylene chloride:methanol (92:8) as eluent gave the product which was washed with diethyl ether to give 103 mg (79%) of the title compound.

reactant | Methyl 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate | 0.33 mmol, 0.12 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)C)C(=O)OC)C1C | C20H23N3O2
reactant | ethanolamine | 3.3 mmol, 0.2 g | C(O)CN | C2H7NO
reactant | sodium cyanide | 0.2 mmol, 10 mg | [C-]#N.[Na+]
solvent | dimethoxyethane | 2 ml | C(OC)COC | C4H10O2
product | 2,3-dimethyl-8-(2,6-dimethylbenzylamino)-N-hydroxyethyl-imidazo[1,2-a]pyridine-6-carboxamide | 103 mg, 79% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)C)C(=O)NCCO)C1C | C21H26N4O2
